US04462943
A solution of cis-4-[(phenylmethyl) thio]-L-proline, hydrochloride in methanol is treated with thionyl chloride according to the procedure of Example 95(e) to yield cis-4-[(phenylmethyl) thio]-L-proline, methyl ester, hydrochloride.

reactant | cis-4-[(phenylmethyl) thio]-L-proline, hydrochloride | Cl.C1(=CC=CC=C1)CS[C@H]1C[C@H](NC1)C(=O)O
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
reactant | methanol | CO | CH4O
product | cis-4-[(phenylmethyl) thio]-L-proline, methyl ester, hydrochloride | Cl.C1(=CC=CC=C1)CS[C@H]1C[C@H](NC1)C(=O)OC | InChI=1S/C13H17NO2S.ClH/c1-16-13(15)12-7-11(8-14-12)17-9-10-5-3-2-4-6-10;/h2-6,11-12,14H,7-9H2,1H3;1H/t11-,12-;/m0./s1
